US06559155B1
1-(N-(1-Dodecyl)-N-methylaminocarbonylmethyl)-2-(4-fluorobenzyl)thio-5-(1-carboxymethyl-2-oxopyrimid-5-ylmethyl)pyrimidin-4-one
To a stirring solution of 1-(N-(1-dodecyl)-N-methylaminocarbonylmethyl)-2-(4-fluorobenzyl)thio-5-(1-ethoxycarbonylmethyl-2-oxopyrimid-5-ylmethyl)pyrimidin-4-one in 1,4-dioxan (8 ml) was added 0.5M sodium hydroxide (1.56 ml). After 1 h, water (3 ml) was added. After a further hour, the mixture was diluted with water, extracted with ethyl acetate and acidified to pH 3 with aq. sodium bisulphate. The solid which precipitated was filtered, washed with water and ether, heated briefly with acetone and filtered again to give the product as a white solid, yield 0.28 g. 1H-NMR (d6-DMSO) δ0.85 (3H, t), 1.22 (18H, m), 1.35-1.61 (2H, m,), 2.78, 2.95 (3H, 2xs), 3.20-3.35 (2H, m), 3.58 (2H, s), 4.40 (2H, s), 4.55 (2H, s), 4.83 (2H, m), 7.10 (2H, m), 7.44 (2H, m), 7.54 and 7.57 (1H, 2xs), 8.03 (1H, m), 8.54 (1H, m) 13.10 (1H, br. s); MS (APCI+) found (M+1)=642, C33H44FN5O5S requires 641.

reactant | 1-(N-(1-dodecyl)-N-methylaminocarbonylmethyl)-2-(4-fluorobenzyl)thio-5-(1-ethoxycarbonylmethyl-2-oxopyrimid-5-ylmethyl)pyrimidin-4-one | C(CCCCCCCCCCC)N(C)C(=O)CN1C(=NC(C(=C1)CC=1C=NC(N(C1)CC(=O)OCC)=O)=O)SCC1=CC=C(C=C1)F | C35H48FN5O5S
reactant | sodium hydroxide | 0.5M, 1.56 ml | [OH-].[Na+]
solvent | 1,4-dioxan | 8 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | water | 3 ml | O | H2O
product | 1-(N-(1-Dodecyl)-N-methylaminocarbonylmethyl)-2-(4-fluorobenzyl)thio-5-(1-carboxymethyl-2-oxopyrimid-5-ylmethyl)pyrimidin-4-one | C(CCCCCCCCCCC)N(C)C(=O)CN1C(=NC(C(=C1)CC=1C=NC(N(C1)CC(=O)O)=O)=O)SCC1=CC=C(C=C1)F | C33H44FN5O5S
